### ISSUE TITLE
autocomplete failure

### ISSUE THREAD

**Issue by kbuzzard** [leanprover/lean4#5219]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [ ] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

In the example below, `Prod.continuous` is a partially-typed declaration name.

```lean4
structure ContinuousSMul (M X : Type) : Prop where
structure ContinuousAdd (X : Type) : Prop where

theorem Prod.continuousSMul {M X Y : Type} : ContinuousSMul M (X × Y) := ⟨⟩

theorem Prod.continuousAdd {X Y : Type} : ContinuousAdd (X × Y) := ⟨⟩

example : (ContinuousSMul Nat (Nat × Nat)) ∧ (ContinuousAdd (Nat × Nat)) := by
  exact ⟨Prod.continuousSMul, Prod.continuous⟩ -- put cursor after `s` in `Prod.continuous`
                                               -- and ctrl-space fails for me
```

I would expect autocompletion in VS Code to offer me e.g. `Prod.continuousAdd` (the thing which will close the goal), but for me it offers nothing:

![autosuggest](https://github.com/user-attachments/assets/563cb1f8-4411-4fe7-91ab-09ba9e14773b)

### Context

https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/autocompletion.20problem/near/466255717

### Steps to Reproduce

1. Copy the code above into Lean
2. Put cursor after `s` in `Prod.continuous`
3. ctrl-space

**Expected behavior:** [Clear and concise description of what you expect to happen]

Suggestions pop up e.g. `Prod.continuousSMul`, `Prod.continuousAdd`.

**Actual behavior:** [Clear and concise description of what actually happens]

No suggestions.

### Versions

Lean (version 4.11.0-rc1, x86_64-unknown-linux-gnu, commit daa22187642d, Release)

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by eric-wieser** [comment]
An even simpler failure:
```lean
example : True ∧ True := by
  exact ⟨trivial, True.in⟩
```
![image](https://github.com/user-attachments/assets/c72ca994-b79d-4c7d-9c18-9b42540cf6f1)
